US07884113B2
147A. 6-Chloro-4-(trifluoromethyl)-3-aminoquinoline
To a solution of 6-chloro-3-nitro-4-(trifluoromethyl)quinoline (5.53 g, 20 mmol) (prepared according to the procedures described by Tarby, C. M., in WO 2003062238) in EtOAc (100 mL) was added SnCl2.2H2O (18 g, 80 mmol). The resulting mixture was stirred at RT for 18 h, then at 80° C. for 6 h. After cooling to RT, saturated aqueous K2CO3 (5 mL) was added. The reaction mixture was stirred at RT for 30 min, and then solid K2CO3 (16.6 g, 120 mmol) was added stirring was continued at RT for 4 more hours. EtOAc (200 mL) was added, the resulting mixture was filtered, and the filtrate concentrated in vacuo to give the title compound (4.8 g, 97% yield) as an off-white solid.

reactant | 6-chloro-3-nitro-4-(trifluoromethyl)quinoline | 20 mmol, 5.53 g | ClC=1C=C2C(=C(C=NC2=CC1)[N+](=O)[O-])C(F)(F)F | C10H4ClF3N2O2
reactant | SnCl2.2H2O | 80 mmol, 18 g | O.O.Cl[Sn]Cl
reactant | K2CO3 | 5 mL | C(=O)([O-])[O-].[K+].[K+]
reactant | K2CO3 | 120 mmol, 16.6 g | C(=O)([O-])[O-].[K+].[K+]
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
product | 6-Chloro-4-(trifluoromethyl)-3-aminoquinoline | 4.8 g, 97% yield | ClC=1C=C2C(=C(C=NC2=CC1)N)C(F)(F)F | C10H6ClF3N2
